US09056859B2
To a flask charged with 5-bromo-4-methyl-2-benzofuran-1(3H)-one (320 mg, 1.409 mmol) and a stir bar was added allyl tri-n-butyltin (0.655 mL, 2.11 mmol), Pd(PPh3)4 (244 mg, 0.211 mmol), lithium chloride (179 mg, 4.23 mmol), and toluene (15 mL). The reaction was purged with nitrogen 2 times then was heated at reflux for 4 hours. The reaction mixture was diluted with DCM, adsorbed onto silica gel, and purified by silica gel chromatography to give 4-methyl-5-prop-2-en-1-yl-2-benzofuran-1(3H)-one.

reactant | 5-bromo-4-methyl-2-benzofuran-1(3H)-one | 1.409 mmol, 320 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)C | C9H7BrO2
reactant | allyl tri-n-butyltin | 2.11 mmol, 0.655 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 4.23 mmol, 179 mg | [Cl-].[Li+]
catalyst | Pd(PPh3)4 | 0.211 mmol, 244 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-5-prop-2-en-1-yl-2-benzofuran-1(3H)-one | CC1=C(C=CC=2C(OCC21)=O)CC=C | C12H12O2
